US04469868
A mixture of 100 g (0.35 mol) of the trichloromethanesulfonate ester of 2,2,2-trifluoroethanol [J. Med. Chem. 16 1354 (1973)] and 55 g (0.35 mol) of ethyl 3-methylpyrazole-5-carboxylate is heated at 150°-155° C. for two hours. The cooled (70° C.) melt is poured with stirring into 400 ml of ether, 80 ml of conc. ammonium hydroxide, and 150 g ice. The ether layer is separated and distilled to give 48 g bp 100°-110°/11 mm. The ester is stirred under reflux two hours in 175 ml of ethanol and 40 ml of water containing 14 g of potassium hydroxide and evaporated in vacuo. The residue is dissolved in 60 ml of water and acidified with conc. HCl to give 32 g (72%) of 1-(2,2,2-trifluoroethyl)-3-methylpyrazole-5carboxylic acid, mp 135°-139° C.

reactant | 2,2,2-trifluoroethanol | FC(CO)(F)F | C2H3F3O
reactant | ethyl 3-methylpyrazole-5-carboxylate | 0.35 mol, 55 g | CC1=NNC(=C1)C(=O)OCC | C7H10N2O2
reactant | ether | 400 ml | CCOCC | C4H10O
reactant | ammonium hydroxide | 80 ml | [OH-].[NH4+]
solvent | ethanol | 175 ml | C(C)O | C2H6O
product | 1-(2,2,2-trifluoroethyl)-3-methylpyrazole-5carboxylic acid | 32 g, 72% | FC(CN1N=C(C=C1C(=O)O)C)(F)F | C7H7F3N2O2
